2168-01-12 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 69 y.o. man w/ multiple myeloma, amyloidosis with
   nephrotic syndrome and renal failure, transferred to ICU for
   hypotension in setting of pneumonia, possible colitis, and BRBPR.
   24 Hour Events:
 PICC LINE - START [**2168-1-11**] 04:00 PM
 EKG - At [**2168-1-12**] 02:16 AM
   - Renal:  Mild Cr bump likely secondary to transient hypotension; no
   need for HD at this time.  Can use lasix 100mg IV x1 to see if responds
   to lasix if need to increase UOP.
   - Onc:  no chemo for now, consider head MRI for AMS, patient is
   high-risk for embolic events so high suspicion for embolic
   event/ischemic colitis
   - Surgery: likely ischemic colitis. Low threshold to take pt to OR for
   colectomy if develops worsening abdominal pain, clinically
   decompensates, etc.  IVF to maintain UOP. Serial exams. Antibx.
   - GI:  no colonoscopy b/c of bowel perf risk, repeat abd CT if
   decompensates
   - multiple episodes of hypotension overnight while sleeping to SBP of
   70s, asymptomatic and rose after patient awoken
   - transfused two units of blood
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2168-1-12**] 12:30 AM
   Cefipime - [**2168-1-12**] 03:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-1-11**] 08:11 AM
   Lorazepam (Ativan) - [**2168-1-11**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-12**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 112 (86 - 112) bpm
   BP: 130/65(78) {65/35(43) - 130/66(80)} mmHg
   RR: 18 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    Bladder pressure: 17 (17 - 19) mmHg
   Total In:
                                                                  2,940 mL
                                                                    280 mL
   PO:
   TF:
   IVF:
                                                                  1,008 mL
                                                                    280 mL
   Blood products:
                                                                    932 mL
   Total out:
                                                                    345 mL
                                                                    303 mL
   Urine:
                                                                    345 mL
                                                                    303 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,595 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///14/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   10.0 g/dL
   92 mg/dL
   4.3 mg/dL
   14 mEq/L
   4.7 mEq/L
   50 mg/dL
   112 mEq/L
   137 mEq/L
   28.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2168-1-11**]  09:09 AM
                             [**2168-1-11**]  03:04 PM
                             [**2168-1-12**]  12:16 AM
                             [**2168-1-12**]  05:16 AM
   WBC
   4.7
   5.1
   Hct
   29.0
   24.1
   28.8
   28.7
   Plt
   117
   134
   Cr
   4.1
   4.3
   4.3
   Glucose
   134
   122
   92
   Other labs: PT / PTT / INR:13.3/32.8/1.1, ALT / AST:38/56, Alk Phos / T
   Bili:503/0.3, Differential-Neuts:79.0 %, Lymph:14.5 %, Mono:6.0 %,
   Eos:0.4 %, Lactic Acid:2.0 mmol/L, LDH:307 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   69 y.o. man w/ multiple myeloma, amyloidosis with nephrotic syndrome
   and renal failure, transferred to ICU for hypotension in setting of
   pneumonia, possible colitis, and BRBPR.
   # Transverse colitis:  Likely ischemic colitis in setting of
   hypotension though other etiologies also on differential, including
   infectious colitis and c. diff.  Stool studies and c. diff toxin
   negative.  Lactate improving and patient no longer having BRBPR or
   abdominal pain.
   - continue NPO for today per surgery reccs
   - low threshold for OR if clinically decompensates per surgery
   - continue flagyl, cefepime, vancomycin, though dosing vancomycin by
   level
   - gentle IVF given volume overload in setting of renal failure and
   decreased urine output
   - will follow Hct and lactate q8h
   - will continue to send c. diff toxin assay when patient stools
   - f/u GI and surgery reccs
   #. Hypotension:  Hemodynamic instability was initial reason for [**Hospital Unit Name 4**]
   admission and patient continues to become hypotensive to SBP of 70s and
   MAP of 40s while sleeping.  Blood pressure responds promptly to waking
   patient/agitation but is not fluid responsive.  Differential includes
   amyloid neuropathy, fluid shifting in setting of colitis, sepsis given
   steroid use, and hypocortisolism given amyloid and elevated TSH.
   - transfuse for Hct<30
   - gentle IVF with sodium bicarb
   - follow-up a.m. cortisol
   - attempt agitation if hypotensive
   #.Acute Renal Failure: secondary to amyloidosis causing nephrotic
   syndrome. Albumin 1.6. Also with bence [**Doctor Last Name **] proteinuria.  Renal
   service is following, they recommend using lasix for peripheral edema,
   and administering IVF along with Lasix in setting of chemotherpay
   administration to minimize hemorrhagic cystitis.  Renal suggests trial
   of lasix 100 mg IV x 1 if concern for decreased UOP.
   -Bicarbonate po per renal
   - f/u renal reccs
   #.Transaminitis: occurred in setting of velcade administration during
   previous hospitalization in early [**Month (only) **]. Causes may include velcade
   toxicity, chronic hep B, or amyloid infiltration.
   -lamivudine
   #.Multiple Myeloma: Currently not receiving cytoxan in setting of
   colitis.  Holding velcade secondary to transaminitis.
   - f/u onc reccs
   FEN: Renal diet
   PPX:
   -DVT ppx with pneumoboots.
   -Bowel regimen
   ACCESS: PIV's X2
   CODE STATUS: Presumed full
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-1-11**] 08:21 AM
   PICC Line - [**2168-1-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2168-01-12 09:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Ischemic colitis
   24 Hour Events:
   PICC line
   Renal - no HD, rec Lasix IV
   Surgery - concern for ischemic colitis
   GI - possible transient ischmic colitis - no role for scope given risk
   of perf
   Transient hypotension - resolved with waking patient up
   PRBC x 3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2168-1-12**] 03:59 AM
   Metronidazole - [**2168-1-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-1-11**] 12:30 PM
   Pantoprazole (Protonix) - [**2168-1-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-12**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 98 (86 - 112) bpm
   BP: 112/59(73) {65/35(43) - 130/66(80)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   Bladder pressure: 17 (17 - 19) mmHg
   Total In:
                                                                  2,940 mL
                                                                    406 mL
   PO:
   TF:
   IVF:
                                                                  1,008 mL
                                                                    406 mL
   Blood products:
                                                                    932 mL
   Total out:
                                                                    345 mL
                                                                    363 mL
   Urine:
                                                                    345 mL
                                                                    363 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,595 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///14/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bases)
   Abdominal: Soft, Non-tender, Distended, Tender:
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   134 K/uL
   92 mg/dL
   4.3 mg/dL
   14 mEq/L
   4.7 mEq/L
   50 mg/dL
   112 mEq/L
   137 mEq/L
   28.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2168-1-11**]  09:09 AM
                             [**2168-1-11**]  03:04 PM
                             [**2168-1-12**]  12:16 AM
                             [**2168-1-12**]  05:16 AM
   WBC
   4.7
   5.1
   Hct
   29.0
   24.1
   28.8
   28.7
   Plt
   117
   134
   Cr
   4.1
   4.3
   4.3
   Glucose
   134
   122
   92
   Other labs: PT / PTT / INR:13.3/32.8/1.1, ALT / AST:38/56, Alk Phos / T
   Bili:503/0.3, Differential-Neuts:79.0 %, Lymph:14.5 %, Mono:6.0 %,
   Eos:0.4 %, Lactic Acid:2.0 mmol/L, LDH:307 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.5 mg/dL
   Micro Data: C.diff negative, culture negative for samonella, ecoli,
   shigella; Influenza negative
   Rads: Abd x-ray
 no free air; lung bases clear of infiltrates, but b/l
   effusions L>R
   Assessment and Plan
   69 y/o M with h/o HTN, COPD, multiple myeloma, and renal failure from
   amyloidosis a/w fevers, LLL infiltrate, cough and then transferred to
   [**Hospital Unit Name 4**] with hypotension in the setting of a GI bleed from transverse
   colitis.
    # Intermitent hypotension: Etiologies include hypovolemic shock from
   GI bleed or septic shock from colitis or possibly PNA given recent
   change in abx.  Possible autonomic instability.
   - Continue vanc/cefepime
   - Flagyl for c. diff
   - Hct q8h; active type and screen; PRBC prn
   - Cortisol level , will give maintenance infusion with d5W and HCO3
   today, transfuse if HCt less than 28
   # Transverse/ischemic colitis: Etiologies include c. diff or other
   infectious etiology.  Superimposed ischemia with hypotension. Lactate
   downtrending.
   - IV Flagyl as above
   - NPO; meds okay
   - GI involved
   - F/U repeat c.diff
   # Acute Renal Failure: Secondary to amyloidosis causing nephrotic
   syndrome. Also with bence [**Doctor Last Name **] proteinuria.
   - Bicarbonate 650mg PO TID
   - Renal following
 trying to avoid HD
   - Lasix prn
   - Judicious IVF to prevent hemorrhagic cystitis on cytoxan
   # Transaminitis: med induced (velcade) vs NASH vs amyloidosis vs
   chronic Hep B
   - Continue lamivudine
   # Multiple Myeloma:
   - Hold cytoxan today
   - Follow-up onc recs.
   Other issues per resident note.
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-1-11**] 08:21 AM
   PICC Line - [**2168-1-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-01-13 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 69 y.o. man w/ multiple myeloma, amyloidosis with
   nephrotic syndrome and renal failure, transferred to ICU for
   hypotension in setting of pneumonia, possible colitis, and BRBPR.
   24 Hour Events:
   -C diff and fecal cultures negative
   -Flu DFA negative
   -Patient complained of foley pain but helped partially by
   urojet/pyridium and more by morphine
   -Denied abdominal pain until late in evening when complained of
   worsening pain in context of lactate of 1.4 and soft belly, surgery
   called but pt received analgesia before
   -Pt mentioned some ? suicidal thoughts due to pain but unclear due to
   language barrier.  Will need to reassess w/ interpreter tomorrow.
   -Lactate stable but got a unit of blood for Hct 26.6.
   -Ordered echo for tomorrow per BMT reccs (they would also like MRI but
   are OK w/ delaying while patient delirious and would need sedation to
   get scan)
   -GI didn't see
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2168-1-12**] 11:55 PM
   Cefipime - [**2168-1-13**] 04:29 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-1-12**] 08:01 PM
   Morphine Sulfate - [**2168-1-13**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 103 (80 - 107) bpm
   BP: 125/75(86) {97/42(56) - 134/75(86)} mmHg
   RR: 14 (9 - 18) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  1,638 mL
                                                                    527 mL
   PO:
           TF:
   IVF:
                                                                  1,638 mL
                                                                    249 mL
   Blood products:
   278 mL
   Total out:
                                                                  1,488 mL
                                                                    440 mL
   Urine:
                                                                  1,488 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    150 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Wheezes : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   11.0 g/dL
   86 mg/dL
   3.7 mg/dL
   18 mEq/L
   4.4 mEq/L
   50 mg/dL
   112 mEq/L
   138 mEq/L
   31.2 %
   4.5 K/uL
        [image002.jpg]
                             [**2168-1-11**]  09:09 AM
                             [**2168-1-11**]  03:04 PM
                             [**2168-1-12**]  12:16 AM
                             [**2168-1-12**]  05:16 AM
                             [**2168-1-12**]  01:41 PM
                             [**2168-1-12**]  08:58 PM
                             [**2168-1-13**]  04:23 AM
   WBC
   4.7
   5.1
   4.5
   Hct
   29.0
   24.1
   28.8
   28.7
   28.1
   26.6
   31.2
   Plt
   117
   134
   134
   Cr
   4.1
   4.3
   4.3
   3.7
   Glucose
   134
   122
   92
   86
   Other labs: PT / PTT / INR:13.3/32.8/1.1, ALT / AST:31/51, Alk Phos / T
   Bili:461/0.3, Differential-Neuts:77.4 %, Lymph:14.3 %, Mono:7.3 %,
   Eos:0.8 %, Lactic Acid:1.6 mmol/L, LDH:335 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   69 y.o. man w/ multiple myeloma, amyloidosis with nephrotic syndrome
   and renal failure, transferred to ICU for hypotension in setting of
   pneumonia, possible colitis, and BRBPR.
   # Transverse colitis:  Likely ischemic colitis in setting of
   hypotension though other etiologies also on differential, including
   infectious colitis and c. diff.  Stool studies and c. diff toxin
   negative.  Lactate improving and patient no longer having BRBPR or
   abdominal pain.
   - trial of clear diet today
   - continue flagyl, cefepime, vancomycin, though dosing vancomycin by
   level
   - antibiotics x 10-14 days per surgery
   - gentle IVF given volume overload in setting of renal failure and
   decreased urine output
   - will follow Hct and lactate q12h
   - will continue to send c. diff toxin assay when patient stools
   - surgery signing off, have lower suspicion for ischemic colitis but
   [**Male First Name (un) **]
t think surgical intervention indicated at this time anyway
   #. Hypotension:  Hemodynamic instability was initial reason for [**Hospital Unit Name 4**]
   admission and patient continued to become hypotensive to SBP of 70s and
   MAP of 40s while sleeping, though this resolved overnight on [**1-12**].
   Blood pressure responds promptly to waking patient/agitation but is not
   fluid responsive.  Differential includes amyloid neuropathy, fluid
   shifting in setting of colitis, and sepsis given steroid use.  Cortisol
   level normal in a.m. of [**1-12**] so no concern for hydrocortisolism.
   - transfuse for Hct<30
   - gentle IVF with sodium bicarb
   - consider neuro consult to r/o amyloid neuropathy
   - attempt agitation if hypotensive
   #.Acute Renal Failure: secondary to amyloidosis causing nephrotic
   syndrome. Albumin 1.6. Also with bence [**Doctor Last Name **] proteinuria.  Renal
   service is following, they recommend using lasix for peripheral edema,
   and administering IVF along with Lasix in setting of chemotherpay
   administration to minimize hemorrhagic cystitis.  Renal suggests trial
   of lasix 100 mg IV x 1 if concern for decreased UOP.
   -Bicarbonate po per renal
   - f/u renal reccs
   #.Transaminitis: occurred in setting of velcade administration during
   previous hospitalization in early [**Month (only) **]. Causes may include velcade
   toxicity, chronic hep B, or amyloid infiltration.
   -lamivudine
   #.Multiple Myeloma: Currently not receiving cytoxan in setting of
   colitis.  Holding velcade secondary to transaminitis.
   - f/u onc reccs
   #. Delirium/mood instability:  Patient has waxing and [**Doctor Last Name 226**] mood and
   mental status.  [**Month (only) 8**] represent depression vs disorientation in setting
   of hospitalization vs primary neurological process.
   - consider head MRI when discharged back to BMT
   FEN: Renal diet
   PPX:
   -DVT ppx with pneumoboots.
   -Bowel regimen
   ACCESS: PIV's X2
   CODE STATUS: Presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-1-11**] 08:21 AM
   PICC Line - [**2168-1-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Transfer to medical floor.